US06451814B1
4-(4-{2-[2-(3-Carbamoyl-4-hydroxy-phenyl)-2-hydroxy-ethylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide
4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide formate (0.50 g, 1.18 mmol) was reacted with 2-(benzyloxy)-5-(2-oxiranyl)benzamide (0.255 g, 0.95 mmol) according to Procedure G to give the title compound (eluant: 20:1 chloroform-methanol) (0.143 g, 0.22 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide formate | 1.18 mmol, 0.50 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCCCCCCCC)C=C1
reactant | 2-(benzyloxy)-5-(2-oxiranyl)benzamide | 0.95 mmol, 0.255 g | C(C1=CC=CC=C1)OC1=C(C(=O)N)C=C(C=C1)C1OC1 | C16H15NO3
product | 4-(4-{2-[2-(3-Carbamoyl-4-hydroxy-phenyl)-2-hydroxy-ethylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide | 0.22 mmol, 0.143 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNCC(O)C1=CC(=C(C=C1)O)C(N)=O | C31H47N5O4
